US07087579B2
To a solution of 5-methyl-4-[(methylthiophenyl)methyl]-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.42 g) in ethanol (5 mL) was added sodium methoxide (28% methanol solution, 0.042 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=5/1) to give 3-(β-D-glucopyranosyloxy)-5-methyl-4-[(4-methylthiophenyl)methyl]-1H-pyrazole (0.23 g).

reactant | 5-methyl-4-[(methylthiophenyl)methyl]-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.42 g | CC1=C(C(=NN1)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)CC=1SC=CC1C | C24H30N2O10S
reactant | sodium methoxide | 0.042 mL | C[O-].[Na+]
reactant | ethanol | 5 mL | C(C)O | C2H6O
product | 3-(β-D-glucopyranosyloxy)-5-methyl-4-[(4-methylthiophenyl)methyl]-1H-pyrazole | 0.23 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)SC)C | C18H24N2O6S
